US05877191
A solution of 3-bromo-4-methoxyaniline (2.50 g, 12.4 mmol) and triethylamine (1.74 mL, 12.4 mmol) in methylene chloride (25 mL) was cooled to 0° C. and trifluoroacetic anhydride (1.75 mL, 2.60 g, 12.4 mmol) was added dropwise over 10 min. Once the addition was complete, the ice bath was removed and the mixture was stirred at room temperature for 1 h. The reaction mixture was partitioned between 50 mL of dichloromethane and 50 mL of water. The aqueous layer was extracted with 50 mL of ethyl acetate. The combined organic layers were washed with 50 mL of brine, dried over sodium sulfate, and evaporated to give a white solid. The crude material was purified by flash column chromatography, eluting with 1.0 L of 5% ethyl acetate/hexane, 1.0 L of 7% of ethyl acetate/hexane and 1.0 L of 10% of ethyl acetate/hexane to obtain N-(3-bromo-4-methoxyphenyl)-2,2,2-trifluoroacetamide (3.42 g, 93%) as a white solid. 1H NMR (400 MHz, CDCl3): δ 7.76 (d, 1H, J=3 Hz), 7.50 (dd, 1H, J=9 ,3 Hz), 6.89 (d, 1H, J=9 Hz), 3.89 (s, 3H).

reactant | 3-bromo-4-methoxyaniline | 12.4 mmol, 2.50 g | BrC=1C=C(N)C=CC1OC | C7H8BrNO
reactant | triethylamine | 12.4 mmol, 1.74 mL | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 12.4 mmol, 1.75 mL, 2.60 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
product | N-(3-bromo-4-methoxyphenyl)-2,2,2-trifluoroacetamide | 3.42 g, 93% | BrC=1C=C(C=CC1OC)NC(C(F)(F)F)=O | C9H7BrF3NO2
